US08476302B2
A solution of 4-(5-(aminomethyl)-1,3,4-thiadiazol-2-yl)phenol (1.74 mmol), 2-hydroxy-8-phenyloctanoic acid (1.74 mmol), HOBt (2.1 mmol), N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (2.1 mmol) and DIPEA (6.94 mmol) in DMF (4 mL) was stirred at room temperature overnight. The resulting mixture was diluted with NaHCO3 (saturated) and extracted twice with ethyl acetate. The combined extracts were washed with brine, dried (Na2SO4) and concentrated. The resulting residue was purified by chromatography (silica gel, methanol-CH2Cl2) to yield 2-hydroxy-N-((5-(4-hydroxyphenyl)-1,3,4-thiadiazol-2-yl)methyl)-8-phenyloctanamide. A solution of 2-hydroxy-N-((5-(4-hydroxyphenyl)-1,3,4-thiadiazol-2-yl)methyl)-8-phenyloctanamide (0.18 mmol), 4-bromomethypyridine hydrochloride (0.26 mmol), and potassium carbonate (0.53 mmol) in DMF (4 mL) was stirred at room temperature overnight. The resulting mixture was diluted with ethyl acetate, washed with brine, dried (Na2SO4) and concentrated to yield 2-hydroxy-8-phenyl-N-((5-(4-(pyridin-4-ylmethoxy)phenyl)-1,3,4-thiadiazol-2-yl)methyl)octanamide, which was used in the next step without purification. To a solution of 2-hydroxy-8-phenyl-N-((5-(4-(pyridin-4-ylmethoxy)phenyl)-1,3,4-thiadiazol-2-yl)methyl)octanamide (0.16 mmol) in CH2Cl2 (5 mL) was added the Dess-Martin periodinane (0.23 mmol). The resulting mixture was stirred overnight, then quenched with an excess of a solution of sodium thiosulfate in saturated NaHCO3 (aqueous). The mixture was then extracted twice with ethyl acetate and the combined extracts were washed with brine, dried (Na2SO4) and concentrated. The resulting residue was purified by chromatography (silica gel, heptane-ethyl acetate) to yield the title compound.

reactant | 4-(5-(aminomethyl)-1,3,4-thiadiazol-2-yl)phenol | 1.74 mmol | NCC1=NN=C(S1)C1=CC=C(C=C1)O | C9H9N3OS
reactant | 2-hydroxy-8-phenyloctanoic acid | 1.74 mmol | OC(C(=O)O)CCCCCCC1=CC=CC=C1 | C14H20O3
reactant | HOBt | 2.1 mmol | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 2.1 mmol | Cl.CN(CCCN=C=NCC)C
reactant | DIPEA | 6.94 mmol | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 2-hydroxy-N-((5-(4-hydroxyphenyl)-1,3,4-thiadiazol-2-yl)methyl)-8-phenyloctanamide | OC(C(=O)NCC=1SC(=NN1)C1=CC=C(C=C1)O)CCCCCCC1=CC=CC=C1 | C23H27N3O3S
